US04963568
1-Aminomethyl-3,4-dihydro-5,6-dimethoxy-3-phenyl-naphthalene hydrochloride (6.0 g, 20.2 mmol), from Step 2, was suspended in 200 mL of methylene chloride and boron tribromide (90.5 mL of 1M solution of BBr3 in methylene chloride) was added dropwise while the reaction mixture was being cooled (to -78° C.) in a dry ice/acetone bath. The reaction mixture was warmed to 0° C. and stirred for 0.5 h, then again cooled to -78° C. in a dry ice/acetone bath. Methanol (50 mL) was added dropwise to the reaction mixture, which was allowed to warm to ambient temperature then concentrated in vacuo. Methanol was added to the residue and the solution was reconcentrated. This residue was dissolved in a small amount of methanol and the methanol solution was aded to 700 mL of diethyl ether. The precipitate which formed was filtered, washed with diethyl ether and recrystallized from methanol/ether to give 2.5 g (45% yield) of 1-aminomethyl-3,4-dihydro-5,6-dihydroxy-3 -phenyl-naphthalene hydrobromide, m.p. 223°-225° C. 1H NMR (d6DMSO) delta 2.68 (dd, 1H), 3.09 (dd, 1H), 3.6-3.7 (m, 1H), 3.9 (s, 2H), 5.97 (d, 1H), 6.69 (m, 2H), 7.2-7.35 (m, 5H), 8.1 (br s, 3H), 8.4 (s, 1H), 9.5 (s, 1H).

reactant | 1-Aminomethyl-3,4-dihydro-5,6-dimethoxy-3-phenyl-naphthalene hydrochloride | 20.2 mmol, 6.0 g | Cl.NCC1=CC(CC2=C(C(=CC=C12)OC)OC)C1=CC=CC=C1
reactant | boron tribromide | 1M, 90.5 mL | B(Br)(Br)Br | BBr3
reactant | Methanol | 50 mL | CO | CH4O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-aminomethyl-3,4-dihydro-5,6-dihydroxy-3 -phenyl-naphthalene hydrobromide | 2.5 g, 45% yield | Br.NCC1=CC(CC2=C(C(=CC=C12)O)O)C1=CC=CC=C1 | InChI=1S/C17H17NO2.BrH/c18-10-13-8-12(11-4-2-1-3-5-11)9-15-14(13)6-7-16(19)17(15)20;/h1-8,12,19-20H,9-10,18H2;1H
